US08471005B2
Into a 30 mL vial, 4-[2-(4-Morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzoic acid (104 mg, 0.251 mmol), N,N-Dimethylformamide (2.08 mL, 26.9 mmol; Supplier=EMD), 1-Hydroxybenzotriazole (41 mg, 0.30 mmol), 4-Methylmorpholine (33.1 uL, 0.301 mmol), [B] 2-Methanesulfonyl-ethylamine; hydrochloride (0.0601 g, 0.376 mmol), and N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.0577 g, 0.301 mmol) were added. The reaction was stirred at room temperature overnight. The reaction was partitioned with sat'd NaHCO3. The precipitate was filtered and washed with water to afford N-(2-Methanesulfonyl-ethyl)-4-[2-(4-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzamide as a yellow solid. MP 241-242° C. LCMS (E/I+) 521.00M+H). NMR 1H (DSMO-d6)-9.34 (d, 1H, J=2.00), 8.97 (s, 1H), 8.60 (d, 1H, J=8.21 Hz), 8.79 (t, 1H, J=5.72 Hz), 8.34 (d, 2H, J=8.52 Hz), 7.97 (d, 2H, J=8.52 Hz), 7.65 (d, 2H, J=9.00 Hz), 7.28 (d, 1H, J=4.80 Hz), 6.94-7.00 (m, 3H), 3.65-3.80 (m, 6H), 3.41 (t, 2H, J=6.88 Hz), 3.03-3.12 (m, 7H).

reactant | 4-[2-(4-Morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzoic acid | 0.251 mmol, 104 mg | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC=C(C(=O)O)C=C2 | C23H21N5O3
reactant | N,N-Dimethylformamide | 26.9 mmol, 2.08 mL | CN(C=O)C | C3H7NO
reactant | 1-Hydroxybenzotriazole | 0.30 mmol, 41 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-Methylmorpholine | 0.301 mmol, 33.1 uL | CN1CCOCC1 | C5H11NO
reactant | 2-Methanesulfonyl-ethylamine | CS(=O)(=O)CCN | C3H9NO2S
reactant | hydrochloride | 0.376 mmol, 0.0601 g | Cl | ClH
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.301 mmol, 0.0577 g | Cl.CN(CCCN=C=NCC)C
product | N-(2-Methanesulfonyl-ethyl)-4-[2-(4-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzamide | CS(=O)(=O)CCNC(C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2)=O | C26H28N6O4S
